US07220760B2
A solution of N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide (50 mg) and ammonium formate (85 mg) and palladium on activated carbon 10% in ethanol (2 ml) were warmed to reflux for 1 hour. The solution was filtered on celite and the solvent was removed to afford N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide (40 mg).

reactant | N-(1-benzyl-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide | 50 mg | C(C1=CC=CC=C1)N1C(CC(C2=CC=CC=C12)N(C(C)=O)C1=CC=CC=C1)C | C25H26N2O
reactant | ammonium formate | 85 mg | C(=O)[O-].[NH4+]
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-phenylacetamide | 40 mg | CC1NC2=CC=CC=C2C(C1)N(C(C)=O)C1=CC=CC=C1 | C18H20N2O
